US04223035
4-(9,10-dihydro-10-methyl-4H-benzo[4,5]-cyclohepta[1,2-b]thiophen-4-ylidene)-1-methylpiperidine
A solution of 17.0 g of 9,10-dihydro-10-methyl-4-(1-methyl-4-piperidyl)-4H-benzo[4,5]cyclohepta[1,2-b]thiophen-4-ol in 350 cc of isopropanol and 350 cc of a 7 N solution of hydrogen chloride in isopropanol is heated to the boil for 4 hours, is evaporated to dryness, the residue is taken up in 150 cc of water, is made alkaline with concentrated caustic soda solution and extracted with methylene chloride. The extracts are washed with water, dried over potassium carbonate, decolourized with animal charcoal and concentrated by evaporation. The title compound, obtained as oily residue, is converted into the hydrochloride form in ethanol. M.P. of the hydrochloride form of the title compound: decomp. from 210° (from acetone/ethanol). M.P. (hydrogen malonate 191°-2° C.)

reactant | 9,10-dihydro-10-methyl-4-(1-methyl-4-piperidyl)-4H-benzo[4,5]cyclohepta[1,2-b]thiophen-4-ol | 17.0 g | CC1CC2=C(C(C3=C1SC=C3)(O)C3CCN(CC3)C)C=CC=C2 | C20H25NOS
reactant | hydrogen chloride | Cl | ClH
solvent | isopropanol | 350 cc | C(C)(C)O | C3H8O
product | 4-(9,10-dihydro-10-methyl-4H-benzo[4,5]-cyclohepta[1,2-b]thiophen-4-ylidene)-1-methylpiperidine | CC1CC2=C(C(C3=C1SC=C3)=C3CCN(CC3)C)C=CC=C2 | C20H23NS
